US07176314B2
N-Iodosuccinimide (8.68 g, 38.6 mmol) was added to a stirred mixture of 6-chloro-isatin (6.98 g, 38.6 mmol) and TfOH (120 g) at 0° C. under N2. Ice-bath was removed and stirring at room temperature was continued for 19 h. The mixture was poured to ice-water. The precipitate was collected by filtration, washed with water (until pH˜7), and dried to give 6-chloro, 5-iodo-isatine (10.5 g) as a 95% pure (1H NMR, 400 MHz), orange solid: 1H NMR (DMSO-d6) 7.10 (s, 1 H), 7.96 (s, 1 H), 11.21 (s, 1 H); ms 305.9 (M−H+).

reactant | N-Iodosuccinimide | 38.6 mmol, 8.68 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 6-chloro-isatin | 38.6 mmol, 6.98 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
reactant | TfOH | 120 g | S(=O)(=O)(C(F)(F)F)O | CHF3O3S
product | 5-iodo-isatine | 10.5 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
